### ISSUE TITLE
`and_then` is subtly different from `<;>`. The former focuses the goal, whereas the latter does not.

### ISSUE THREAD

**Issue by alexkeizer** [arthurpaulino/lean4-metaprogramming-book#49]
Page 60 suggests that `a and_then b` behaves the same as `a <;> b`, but this is not the case when `b` does not close all goals;

For example, if the second tactic is skip. The `<;>` version compiles just fine.
```lean4
example {x : Nat} : True :=
by
  cases x <;> skip
  repeat exact True.intro
```
But, the `and_then` version complains about unsolved goals.
```lean4
macro a:tactic " and_then " b:tactic : tactic =>
    `(tactic|  $a:tactic; all_goals $b:tactic)

example {x : Nat} : true :=
by
  cases x and_then skip -- Error: unsolved goals ...
  repeat exact True.intro
```

I don't readily see how to fix this while keeping it as a simple substitution-macro, but maybe this discrepancy should be pointed out in the text.

**Comment by arthurpaulino** [comment]
The problem was that `{ $a:tactic; all_goals $b:tactic }` (with curly braces) was explicitly requiring it to close the goals. Removing them solved the problem.

[Commit link](https://github.com/arthurpaulino/lean4-metaprogramming-book/commit/5f5ab8bcff09c773bbfe2a1c7c12c394e5c1c4bd)

**Comment by alexkeizer** [comment]
We still want to focus the main goal, before applying `a`, so that `b` only works on those goals introduced by `a`.

```
example {x y : Nat} : y = 0 ∨ y ≠ 0 :=
by
  cases y;
  cases x and_then {
    apply Or.inl;
    rfl
  }
  apply Or.inr
  simp
```

Turns out `focus` does exactly that, so the macro should be
```
macro a:tactic " and_then " b:tactic : tactic =>
    `(tactic| 
        focus 
          $a:tactic; all_goals $b:tactic
      )
```

I'd make a PR, but that seems a bit overkill for a change this tiny?
